US07655666B2
N-(7-Isopropyl-2,4-dioxo-6-pyridazin-4-yl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide
A solution of 2-amino-4-isopropyl-5-pyridazin-4-yl-benzoic acid methyl ester (220 mg, 0.81 mmol) and 4-chlorophenyl chloroformate (170 μL, 1.22 mmol) in dioxane (10 mL) was stirred at r.t. for 10 min and at 80° C. for 30 min. After cooling to r.t., CH3SO2NHNH2 (178.6 mg, 1.6 mmol) and i-Pr2NEt (425 μL, 2.43 mmol) were added. The mixture was heated at 80° C. for 1.5 h, cooled to r.t., and the solvent was removed in vacuo. The residue was purified by flash chromatography (100 g silica gel, DCM→MeOH in DCM (2.5% to 5%)). The fractions containing the product were combined and concentrated in vacuo and the residue was further purified by trituration in MeOH-Et2O. After filtration and drying, the title compound (156 mg, 51%) was isolated as a white powder. API-ES: m/z 376 [M+H]+, rt 2.12 min.

reactant | 2-amino-4-isopropyl-5-pyridazin-4-yl-benzoic acid methyl ester | 0.81 mmol, 220 mg | COC(C1=C(C=C(C(=C1)C1=CN=NC=C1)C(C)C)N)=O | C15H17N3O2
reactant | 4-chlorophenyl chloroformate | 1.22 mmol, 170 μL | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | CH3SO2NHNH2 | 1.6 mmol, 178.6 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | i-Pr2NEt | 2.43 mmol, 425 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-(7-Isopropyl-2,4-dioxo-6-pyridazin-4-yl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 156 mg, 51% | C(C)(C)C1=C(C=C2C(N(C(NC2=C1)=O)NS(=O)(=O)C)=O)C1=CN=NC=C1 | C16H17N5O4S
